US08133998B2
To a solution of methyl 5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylate (0.8 g, 3.5 mmol) in DMF (10 ml) was added NaH (0.28 g, 7 mmol) followed by the addition of 2-(2-oxopyrrolidin-1-yl)ethyl methanesulfonate (0.7 g, 3.5 mmol). The mixture was then stirred overnight at RT. Reaction was quenched with water (10 ml) and mixture extracted with ethyl acetate. Ethyl acetate layer was separated, dried over anhydrous sodium sulfate and evaporated to yield 0.5 g of methyl 5-methyl-4-oxo-3-(2-(2-oxopyrrolidin-1-yl)ethyl)-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylate, as an oil (yield: 42.8%).

reactant | methyl 5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylate | 3.5 mmol, 0.8 g | CC1=C(SC=2N=CNC(C21)=O)C(=O)OC | C9H8N2O3S
reactant | NaH | 7 mmol, 0.28 g | [H-].[Na+]
reactant | 2-(2-oxopyrrolidin-1-yl)ethyl methanesulfonate | 3.5 mmol, 0.7 g | CS(=O)(=O)OCCN1C(CCC1)=O | C7H13NO4S
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | methyl 5-methyl-4-oxo-3-(2-(2-oxopyrrolidin-1-yl)ethyl)-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylate | 0.5 g | CC1=C(SC=2N=CN(C(C21)=O)CCN2C(CCC2)=O)C(=O)OC | C15H17N3O4S
